US07652015B2
Place 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid methyl ester (665 mg, 2.30 mmol) in methanol (25 mL). Add 1 N NaOH (10 mL, 10 mmol) and heat to 50° C. for 4 hours. Cool to room temperature and concentrate under reduced pressure. Add saturated aq. sodium bicarbonate solution and CH2Cl2. Separate organic layer and extract aqueous layer with CH2Cl2 (2×25 mL). Combine organic extracts, dry over Mg2SO4, filter, and concentrate under reduced pressure to yield 620 mg (98%) of 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid. MS(ES+): m/z=275.3 [M+H].

reactant | 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid methyl ester | 2.30 mmol, 665 mg | COC(=O)C=1N(N=C(C1)[Si](C)(C)C)C1=CC=C(C=C1)C | C15H20N2O2Si
reactant | NaOH | 10 mmol, 1 N, 10 mL | [OH-].[Na+]
solvent | methanol | 25 mL | CO | CH4O
product | 2-p-tolyl-5-trimethylsilanyl-2H-pyrazole-3-carboxylic acid | 620 mg, 98% | C1(=CC=C(C=C1)N1N=C(C=C1C(=O)O)[Si](C)(C)C)C | C14H18N2O2Si
